US08420631B2
7-Chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-enyl]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-ynyl]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (726 mg) in EtOAc (20 mL). Add 10% Pd/C (Degussa type, 100 mg) and then stir the mixture under 15 psi of hydrogen for 10 min. As reaction is not completed, add extra catalyst (147 mg) and stir under 15 psi of hydrogen for an extra 15 min. Filter the reaction mixture through a short pad of Celite® and concentrate in vacuo to obtain the desired intermediate that was used in the next step without further purification. MS (ES+) m/z=457.2 (M+H)+.

reactant | 7-chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-ynyl]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 726 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C#CCCCNC(=O)C1CCCC1 | C23H26ClF3N2O2
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 7-Chloro-6-[5-(cyclopentanecarbonyl-amino)-pent-1-enyl]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C=CCCCNC(=O)C1CCCC1 | C23H28ClF3N2O2
